US07396958B2
methyl N-[4-chloro-2-(2,6-difluorobenzyl)phenyl]-N-[(3,4-dimethoxyphenyl)sulfonyl]alaninate
By reaction of 2 g of N-[4-chloro-2-(2,6-difluorobenzyl)phenyl]-3,4-dimethoxybenzenesulfonamide with methyl lactate according to process 35, 1.393 g of the expected product are obtained.

reactant | N-[4-chloro-2-(2,6-difluorobenzyl)phenyl]-3,4-dimethoxybenzenesulfonamide | 2 g | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC)CC1=C(C=CC=C1F)F | C21H18ClF2NO4S
reactant | methyl lactate | C(C(O)C)(=O)OC | C4H8O3
product | methyl N-[4-chloro-2-(2,6-difluorobenzyl)phenyl]-N-[(3,4-dimethoxyphenyl)sulfonyl]alaninate | 1.393 g | ClC1=CC(=C(C=C1)N([C@@H](C)C(=O)OC)S(=O)(=O)C1=CC(=C(C=C1)OC)OC)CC1=C(C=CC=C1F)F | C25H24ClF2NO6S
